US09227985B2
Step 1. (3R)—N-Isopropylpyrrolidine-3-carboxamide
To (3R)-1-(tert-butoxycarbonyl)pyrrolidine-3-carboxylic acid (150 mg, 0.70 mmol) in N,N-dimethylformamide (3.0 mL), N,N-diisopropylethylamine (0.25 mL, 1.4 mmol) and 1-hydroxybenzotriazole (94 mg, 0.70 mmol) were added. The mixture was stirred at room temperature for 5 min, followed by addition of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (150 mg, 0.77 mmol). The mixture was then stirred for 20 min. 2-Propanamine (59 μL, 0.69 mmol) was added and the mixture was stirred overnight. The mixture was then diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The aqueous layer was separated and extracted with additional ethyl acetate. The combined organic layers were dried over magnesium sulfate, concentrated, and purified by preparative LCMS using pH 2 buffer to give desired boc-protected intermediate. The product fractions were concentrated and treated with 4.0 M hydrogen chloride in 1,4-dioxane (2.0 mL) for 30 min, at which time the mixture was concentrated and dissolved in DCM/MeOH and treated with Trisamine resin (Silicycle) for 30 min. The resulting mixture was filtered and the solvents were evaporated to give the desired compound (63 mg, 58%) which was used in the next step without further purification. LCMS calc. for C8H17N2O (M+H)+: m/z=157.1. found: 157.2.

reactant | (3R)-1-(tert-butoxycarbonyl)pyrrolidine-3-carboxylic acid | 0.70 mmol, 150 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C(=O)O | C10H17NO4
reactant | N,N-diisopropylethylamine | 1.4 mmol, 0.25 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxybenzotriazole | 0.70 mmol, 94 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.77 mmol, 150 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-Propanamine | 0.69 mmol, 59 μL | CC(C)N | C3H9N
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R)—N-Isopropylpyrrolidine-3-carboxamide | 63 mg, 58% | C(C)(C)NC(=O)[C@H]1CNCC1 | C8H16N2O
